US08530648B2
b) 2-(2-(bromomethyl)phenyl)-2H-1,2,3-triazole
To a stirred solution of (2-(2H-1,2,3-triazol-2-yl)phenyl)methanol (37 mg, 0.209 mmol) in THF (1 mL), PBr3 (0.024 mL, 0.251 mmol) was added and the mixture was heated at 70° C. for 20 min. The mixture was cooled to rt, poured into saturated aqueous NaHCO3 solution and extracted with dichloromethane (2×). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash-column chromatography over silicagel (eluent: gradient 10%-100% ethyl acetate/heptane) to yield the title compound (28 mg, 54%). [1H NMR (400 MHz, DMSO-d6) ♀ ppm 8.17 (s, 2H), 7.69 (ddd, J=7.59, 3.58, 1.63 Hz, 2H), 7.53 (dqd, J=14.74, 7.51, 7.51, 7.51, 1.63 Hz, 2H), 4.96 (s, 2H); LCMS RtA=1.02, [M+H]+=238.2/240.2].

reactant | (2-(2H-1,2,3-triazol-2-yl)phenyl)methanol | 0.209 mmol, 37 mg | N=1N(N=CC1)C1=C(C=CC=C1)CO | C9H9N3O
reactant | PBr3 | 0.251 mmol, 0.024 mL | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(2-(bromomethyl)phenyl)-2H-1,2,3-triazole | 28 mg, 54% | BrCC1=C(C=CC=C1)N1N=CC=N1 | C9H8BrN3
